US04224325
3-Morpholino-6-(3-methyl-5-hydroxy-1-pyrazolyl)-pyridazine
A mixture of 0.98 g (5 mmoles) of 3-morpholino-6-pyridazinyl-hydrazine, 0.65 g (5 mmoles) of ethyl acetoacetate and 15 ml of ethanol is stirred at reflux temperature for 3 hours. After cooling the mixture is stirred with 1 ml of concentrated aqueous ammonium hydroxide solution at room temperature for 4 hours and then left to stand overnight. The separated crystals are filtered, washed with water and recrystallized from ethanol. Yield: 0.5 g (39%); m.p.: 189°-192° C.

reactant | 3-morpholino-6-pyridazinyl-hydrazine | 5 mmoles, 0.98 g | O1CCN(CC1)C=1N=NC(=CC1)NN | C8H13N5O
reactant | ethyl acetoacetate | 5 mmoles, 0.65 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-Morpholino-6-(3-methyl-5-hydroxy-1-pyrazolyl)-pyridazine | O1CCN(CC1)C=1N=NC(=CC1)N1N=C(C=C1O)C | C12H15N5O2
